US05770643
50.5 g (0.40 mol) of 6-methyluracil (Merck) are introduced in portions over the course of one hour with stirring at 02 to +5° C. into a solution of 200 ml of 100% nitric acid (fuming) and 50 g of phosphorus pentoxide. When the exothermic reaction is complete, the mixture is stirred at +5° C. for a further 5 hours. The reaction mixture is subsequently poured into 1 kg of ice-water. The resultant precipitate is filtered, washed with water and then dried to constant weight, giving 37 g (54%) of 5-nitro-6-methyluracil, pale-yellow powder, m.p. 281° C. with decomposition.

reactant | 6-methyluracil | 0.40 mol, 50.5 g | CC1=CC(NC(N1)=O)=O | C5H6N2O2
reactant | phosphorus pentoxide | 50 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | nitric acid | 200 ml | [N+](=O)(O)[O-] | HNO3
product | 5-nitro-6-methyluracil | 37 g, 54% | [N+](=O)([O-])C=1C(NC(NC1C)=O)=O | C5H5N3O4
